US07179926B2
(S)-4-(3,5-bis(trifluoromethyl)benzyloxy)-3-phenyl-3-(triethylsilyloxy)butan-1-amine.
A flask was charged with (S)-(1-(3,5-bis(trifluoromethyl)benzyloxy)-4-nitro-2-phenylbut-3-en-2-yloxy)triethylsilane (35 mg, 64 μmol), methanol (1.5 mL), and platinum dioxide (20 mg, 88 μmol). The flask was purged with hydrogen and stirred under a balloon of hydrogen for 2 h. The reaction was filtered through celite and concentrated. Column chromatography (5% methanol/dichloromethane) gave 20 mg (60%) as a colorless oil. Retention time: 1.98 min. (Phenomenex C18 3.0×50 mm, 10% MeOH/90% H2O/0.1% TFA→90% MeOH/10% H2O/0.1% TFA, Gradient time=2 min., Flow rate=5 mL/min.) Mass spec.: 522.16 (MH)+.

reactant | (S)-(1-(3,5-bis(trifluoromethyl)benzyloxy)-4-nitro-2-phenylbut-3-en-2-yloxy)triethylsilane | 64 μmol, 35 mg | FC(C=1C=C(COC[C@@](C=C[N+](=O)[O-])(O[Si](CC)(CC)CC)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C25H29F6NO4Si
catalyst | platinum dioxide | 88 μmol, 20 mg | [Pt](=O)=O
solvent | MeOH | CO | CH4O
solvent | methanol | 1.5 mL | CO | CH4O
product | (S)-4-(3,5-bis(trifluoromethyl)benzyloxy)-3-phenyl-3-(triethylsilyloxy)butan-1-amine | FC(C=1C=C(COC[C@@](CCN)(O[Si](CC)(CC)CC)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C25H33F6NO2Si
